US04356118
L-Phenylalanyl-valyl-tryptophan hydrochloride.
The title compound is prepared using the previously described procedures and the following reagants: 1.85 grams (3.4 mmoles) t-butyloxycarbonyl-phenylalanyl-valyl-tryptophan, 10 ml of glacial acetic acid and 7.25 ml of 6.07 N hydrochloric acid in dioxane. Yield is 1.6 g (100 percent). Analysis calculated for C25H30N4O4.HCl.2H2O: C, 56.99; H, 6.93; N, 9.17. Found: C, 56.70; H, 6.43; N, 8.82.

reactant | t-butyloxycarbonyl-phenylalanyl-valyl-tryptophan | 3.4 mmoles, 1.85 grams | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C30H38N4O6
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6.07 N, 7.25 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | L-Phenylalanyl-valyl-tryptophan hydrochloride | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | InChI=1S/C25H30N4O4.ClH/c1-15(2)22(29-23(30)19(26)12-16-8-4-3-5-9-16)24(31)28-21(25(32)33)13-17-14-27-20-11-7-6-10-18(17)20;/h3-11,14-15,19,21-22,27H,12-13,26H2,1-2H3,(H,28,31)(H,29,30)(H,32,33);1H/t19-,21-,22-;/m0./s1
